US08455488B2
Synthesis of (9H-fluoren-9-yl)methyl (S)-1-((benzo[c][1,2,5]thiadiazol-4-ylmethyl)((S)-1,1-diethoxypropan-2-yl)amino)-3-(4-tert-butoxyphenyl)-1-oxopropan-2-ylcarbamate (Compound III-4)
According to the procedure described in the synthesis method of Compound III-1, (S)—N-(benzo[c][1,2,5]thiadiazol-4-ylmethyl)-1,1-diethoxypropan-2-amine (Compound IX-4) 1.41 g (4.78 mmol) was coupled with (S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(4-tert-butoxyphenyl)propanoic acid 2.4 g (5.23 mmol) and purified on Buch silica gel column chromatography (n-hexane:ethyl acetate=7:3) to obtain the title compound 2.38 g (68%).

reactant | (S)—N-(benzo[c][1,2,5]thiadiazol-4-ylmethyl)-1,1-diethoxypropan-2-amine | 4.78 mmol, 1.41 g | N=1SN=C2C1C=CC=C2CN[C@H](C(OCC)OCC)C | C14H21N3O2S
reactant | (S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(4-tert-butoxyphenyl)propanoic acid | 5.23 mmol, 2.4 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)OC(C)(C)C | C28H29NO5
product | (9H-fluoren-9-yl)methyl (S)-1-((benzo[c][1,2,5]thiadiazol-4-ylmethyl)((S)-1,1-diethoxypropan-2-yl)amino)-3-(4-tert-butoxyphenyl)-1-oxopropan-2-ylcarbamate | 2.38 g, 68% | N=1SN=C2C1C=CC=C2CN(C([C@H](CC2=CC=C(C=C2)OC(C)(C)C)NC(OCC2C1=CC=CC=C1C=1C=CC=CC21)=O)=O)[C@H](C(OCC)OCC)C | C42H48N4O6S
